US08614221B2
3-tert-Butyl-1H-pyrazol-5-amine [CCXXXIV]
A solution of 4,4-dimethyl-3-oxopentanenitrile (Compound [CCLII]) (7 g, 55.9 mmol, 1.00 equiv) and NH2NH2.H2O (4.5 g, 140 mmol, 2.00 equiv) in EtOH (100 mL) was stirred for 7 h at 110° C. under nitrogen. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:2). After cooling, the resulting solution was concentrated under vacuum and diluted with 50 mL of water. The resulting solution was extracted with CH2Cl2, dried and concentrated under reduced pressure. The residue was loaded onto a silica gel column with ethyl acetate/petroleum ether as the eluent to Compound [CCXXXIV] as a yellowish oil: LCMS (m/e) 140 (M+H); 1H NMR (300 MHz, DMSO-d6) δ ppm 5.18 (s, 1H), 1.19 (s, 9H). Amount obtained: 7.6 g, 97% yield.

reactant | 4,4-dimethyl-3-oxopentanenitrile | 55.9 mmol, 7 g, 1.00 equiv | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | NH2NH2.H2O | 140 mmol, 4.5 g, 2.00 equiv | NN.O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-tert-Butyl-1H-pyrazol-5-amine | 97% yield | C(C)(C)(C)C1=NNC(=C1)N | C7H13N3
